US07179823B1
A mixture of ethyl(E)-3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propenoate (12.13 g), 5% palladium-carbon (10.22 g) and tetrahydrofuran (100 ml) was stirred for 5 hours under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated to obtain ethyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (9.52 g, yield 98%) as a colorless oily substance.

reactant | ethyl(E)-3-[1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propenoate | 12.13 g | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)C2=CC=CC=C2)C=C1 | C28H26N2O3
catalyst | palladium-carbon | 10.22 g | [C].[Pd]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 9.52 g, yield 98% | OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)C2=CC=CC=C2)C=C1 | C21H22N2O3
